US04963558
trans and cis-2-Methyl-1,3,4,4a,5,7,8,8a-octahydro-6(2H)-isoquinolone
2-Methyl-1,2,3,4,6,7,8,8a-octahydroisoquinol-6-one (3.30 g) in ethanol (75 ml) was hydrogenated at 60 p.s.i. in the presence of 5% Pd/C (0.5) for 2.5 hours. The catalyst was filtered off and the filtrate evaporated to give a light brown oil.

reactant | 2-Methyl-1,2,3,4,6,7,8,8a-octahydroisoquinol-6-one | 3.30 g | CN1CC2CCC(C=C2CC1)=O | C10H15NO
solvent | ethanol | 75 ml | C(C)O | C2H6O
catalyst | Pd/C | [Pd] | Pd
product | cis-2-Methyl-1,3,4,4a,5,7,8,8a-octahydro-6(2H)-isoquinolone | CN1C[C@H]2CCC(C[C@H]2CC1)=O | C10H17NO
